US06969725B2
In analogy to the procedure described in example 1 f], [rac]-2-ethoxy-3-(2-ethoxy-4-hydroxy-phenyl)-propionic acid ethyl ester (example 47 c]) was reacted with 4-chloromethyl-2-(4-isopropoxy-phenyl)-5-methyl-oxazole (example 2 b]) in N,N-dimethylformamide in the presence of potassium carbonate to yield [rac]-2-ethoxy-3-{2-ethoxy-4-[2-(4-isopropoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-phenyl}-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 1 g], to yield [rac]-2-ethoxy-3-{2-ethoxy-4-[2-(4-isopropoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-phenyl}-propionic acid as colorless solid, which can be separated into its antipodes by methods known in the art, such as separation of the antipodes via diastereomeric salts by crystallization with optically pure amines such as e.g. (R) or (S)-1-phenyl-ethylamine, (R) or (S)-1-naphthalen-1-yl-ethylamine, brucine, quinine and quinidine or by separation of the antipodes by specific chromatographic methods using either a chiral adsorbens or a chiral eluent to give the title compound.

reactant | [rac]-2-ethoxy-3-(2-ethoxy-4-hydroxy-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)O)OCC)OCC)=O | C15H22O5
reactant | 4-chloromethyl-2-(4-isopropoxy-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)OC(C)C | C14H16ClNO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | [rac]-2-ethoxy-3-{2-ethoxy-4-[2-(4-isopropoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-phenyl}-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=CC=C(C=C1)OC(C)C)OCC)OCC)=O | C29H37NO7
